US09193693B2
Step 1. Methyl 2-phenyl-3-(4-(pyrimidin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylate
Into a 8-mL sealed tube, was placed methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv), 2-(piperazin-1-yl)pyrimidine (144.3 mg, 0.88 mmol, 2.00 equiv), DIEA (170.3 mg, 1.32 mmol, 3.00 equiv), N,N-dimethylformamide (3 mL). The resulting solution was stirred overnight at 100° C. in an oil bath. The resulting solution was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:50). This resulted in 192 mg (95%) of methyl 2-phenyl-3-(4-(pyrimidin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 2-(piperazin-1-yl)pyrimidine | 0.88 mmol, 144.3 mg, 2.00 equiv | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
reactant | DIEA | 1.32 mmol, 170.3 mg, 3.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | Methyl 2-phenyl-3-(4-(pyrimidin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylate | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCN(CC1)C1=NC=CC=N1)C(=O)OC | C24H22N6O2
